US07589208B2
N-Ethyl-N-phenyl- 5-chloro- 1,2-dihydro- 4-hydroxy- 1-methyl- 2-oxo- 3-quinolinecarboxamide calcium salt
N-Ethyl-N-phenyl- 5chloro- 1,2-dihydro- 4-hydroxy- 1-methyl- 2-oxo- 3-quinolinecarboxamide sodium salt ( 2.63 mmol, 1.0 g) was dissolved in a mixture of ethanol ( 10.5 ml) and water ( 5.3 ml). The solution was heated to 70° C. and a solution of calcium acetate hydrate in water ( 1M solution, 1.05 eq., 1.38 mmol, 1.38 ml) was added. The resulting suspension was stirred for 30 minutes, then cooled, and the crystals were isolated by filtration, washed with water, and dried under vacuum ( 966 mg, 98% yield). Anal. Calcd for C38H32Cl2N4O6Ca: C, 60.7; H, 4.29; N, 7.45. Found C, 60.5; H, 4.34; N, 7.41.

reactant | N-Ethyl-N-phenyl- 5chloro- 1,2-dihydro- 4-hydroxy- 1-methyl- 2-oxo- 3-quinolinecarboxamide sodium salt | 2.63 mmol, 1.0 g | [Na].C(C)N(C(=O)C=1C(N(C2=CC=CC(=C2C1O)Cl)C)=O)C1=CC=CC=C1
reactant | calcium acetate hydrate | O.C(C)(=O)[O-].[Ca+2].C(C)(=O)[O-]
solvent | ethanol | 10.5 ml | C(C)O | C2H6O
solvent | water | 5.3 ml | O | H2O
solvent | water | 1.38 mmol, 1M, 1.38 ml, 1.05 eq. | O | H2O
product | N-Ethyl-N-phenyl- 5-chloro- 1,2-dihydro- 4-hydroxy- 1-methyl- 2-oxo- 3-quinolinecarboxamide calcium salt | 98% yield | [Ca].C(C)N(C(=O)C=1C(N(C2=CC=CC(=C2C1O)Cl)C)=O)C1=CC=CC=C1 | InChI=1S/C19H17ClN2O3.Ca/c1-3-22(12-8-5-4-6-9-12)19(25)16-17(23)15-13(20)10-7-11-14(15)21(2)18(16)24;/h4-11,23H,3H2,1-2H3;
